US08580785B2
11.8 g (43.0 mmol) quinoxaline-6,7-dicarboxylic acid diethyl ester and 5.0 g (86 mmol) KOH dissolved in 100 ml dioxane and 50 ml water is stirred at ambient temperature during 20 hours. After evaporation of the dioxane, the solution is made slightly acidic (pH ˜5) with HCl 2N and is extracted with methylene chloride. After evaporation of the organic phase, 6.6 g diacide is isolated. This product is directly dissolved in 25 ml acetanhydride and heated at reflux during 8 hours. Acetanhydride is evaporated and 6.2 g furo[3,4-g]quinoxaline-6,8-dione is isolated. Without purification, this material is dissolved in 50 ml methanol and heated at reflux during 1 hour. After evaporation of the solvent, the residue is crystallised in diisopropyl ether to give 6.25 g of the title compound (63%): 1H-NMR (DMSO-d6, 400 MHz): 3.73 ppm (s, 3H), 8.20 (s, 1H), 8.35 (s, 1H), 9.0 (2 s, 2H), 13.6 (s, b, 1H).

reactant | quinoxaline-6,7-dicarboxylic acid diethyl ester | 43.0 mmol, 11.8 g | C(C)OC(=O)C=1C=C2N=CC=NC2=CC1C(=O)OCC | C14H14N2O4
reactant | KOH | 86 mmol, 5.0 g | [OH-].[K+]
reactant | water | 50 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | acetanhydride | 25 ml | CC(=O)OC(=O)C | C4H6O3
product | furo[3,4-g]quinoxaline-6,8-dione | 6.2 g | N1=CC=NC=2C=C3C(=CC12)C(OC3=O)=O | C10H4N2O3
